US09353066B2
2-Chloroethyl chloroformate (12.58 μL, 0.122 mmol) was slowly added to a stirred, cooled (0° C.) mixture of (1R)-1-(3′-amino-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-yl)-2,2-difluoroethanol (40 mg, 0.097 mmol) and potassium carbonate (33.7 mg, 0.244 mmol) in acetonitrile (0.5 mL). The mixture was stirred at room temperature for 1 hour. The mixture was then heated and stirred at 80° C. for 3 hours, then allowed to cool to room temperature. The mixture was diluted with ethyl acetate and concentrated in vacuo. Purification via silica gel column chromatography (20-80% ethyl acetate in hexanes) to give 3-(4′-[(1R)-2,2-difluoro-1-hydroxyethyl]-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-yl)-1,3-oxazolidin-2-one as a colorless solid. MS ESI calc'd. for C22H18F5N4O3 [M+H]+ 481, found 481. 1H NMR (500 MHz, DMSO-d6): δ 10.39 (s, 1H); 8.85 (d, J=4.9 Hz, 1H); 8.01 (s, 1H); 7.88 (s, 1H); 7.64 (d, J=7.8 Hz, 2H); 7.55 (t, J=8.9 Hz, 3H); 7.31 (d, J=4.8 Hz, 1H); 6.27 (d, J=4.8 Hz, 1H); 6.07 (td, J=55.5, 3.9 Hz, 1H); 4.83 (s, 1H); 4.48 (t, J=7.8 Hz, 2H); 4.13 (t, J=7.9 Hz, 2H).

reactant | 2-Chloroethyl chloroformate | 0.122 mmol, 12.58 μL | ClC(=O)OCCCl | C3H4Cl2O2
reactant | (1R)-1-(3′-amino-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-yl)-2,2-difluoroethanol | 0.097 mmol, 40 mg | NC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)[C@H](C(F)F)O | C19H15F5N4O
reactant | potassium carbonate | 0.244 mmol, 33.7 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4′-[(1R)-2,2-difluoro-1-hydroxyethyl]-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-yl)-1,3-oxazolidin-2-one | FC([C@H](O)C1=CC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)N1C(OCC1)=O)F | C22H17F5N4O3
